US09193716B2
Step A: 4-n-Octylbenzaldehyde
A mixture of n-octylbenzene (1.2 g; 6.3 mmol) hexamethylenetetramine (0.97 g; 6.93 mmol) in trifluoroacetic acid (TFA) was refluxed for 4 h, cooled to room temperature and evaporated to dryness under reduced pressure. The residue was neutralized with 5% NaHCO3 and extracted with diethyl ether (Et2O) (3×5 ml). The combined organic phase was washed with H2O, brine, dried over anhydrous MgSO4 and filtered. The filtrate was evaporated under reduced pressure and the residue was purified by FCC (SiO2, hexane) to give the title compound (0.4 g; 29%) as a colourless oil and starting n-octylbenzene (0.8 g; 67%). 1H-NMR (CDCl3) 9.96 (s, 1H); 7.77 (d, 2H, J=8.1 Hz); 7.31 (d, 2H, J=8.1 Hz); 2.67 (t, 2H, J=7.9 Hz); 1.6 (m, 2H); 1.26 (m, 10H); 0.86 (t, 3H, J=6.9 Hz);

reactant | n-octylbenzene | 6.3 mmol, 1.2 g | C(CCCCCCC)C1=CC=CC=C1 | C14H22
reactant | hexamethylenetetramine | 6.93 mmol, 0.97 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 4-n-Octylbenzaldehyde | 0.4 g, 29% | C(CCCCCCC)C1=CC=C(C=O)C=C1 | C15H22O
